***********************************************************
*
* BAV23S
*
* Nexperia
*
* Dual high-voltage switching diodes
* IFmax = 225mA
* VRmax = 200V
* VFmax = 1,25V  @ IF = 200mA
* IRmax = 100nA  @ VR = 200V
*
*
* Package pinning does not match Spice model pinning.
* Package: SOT23
* 
* Package Pin 1: Anode         D1
* Package Pin 2: Cathode       D2
* Package Pin 3: Cathode/Anode D1/D2
*
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1 does not reflect a
* physical devices. Instead it improves
* modeling in the reverse mode of operation.
*
.SUBCKT BAV23S 1 2
R1 1 2 1.622E+10 
D1 1 2 BAV23S
*
.MODEL BAV23S D 
+ IS = 3.648E-9 
+ N = 1.909 
+ BV = 260 
+ IBV = 2E-7 
+ RS = 0.7535 
+ CJO = 7.501E-13 
+ VJ = 0.1995 
+ M = 0.115 
+ FC = 0.5 
+ TT = 3.462E-8 
.ENDS
*