.SUBCKT BUK9675-100A DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.17294647305442e-09
RLS2 SOURCE 8 10.487758386857
RLS1 8 7 0.000613153240026308

RDS 7 4 100000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0512626699018277 TC=0.0070186094683939,3.27708032801007E-05
RBD 9 4 0.00632617163493958 TC=0.0070186094683939,3.27708032801007E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 1.11883764331084e-09
RG 1 2 1.26863

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	2476.86
+ -0.5	2086.8
+ -0.2	1780.09
+ -0.1	1770.12
+ 0	1528.9245
+ 0.1	1112.292
+ 0.2	1110.935
+ 0.5	605.9603
+ 1	381.6119
+ 2	270.426
+ 3	226.5148
+ 4	200.3659
+ 5	181.4891
+ 6	167.3999
+ 8	147.6131
+ 10	133.9606
+ 12	123.6929
+ 15	112.2133
+ 16	108.9342
+ 20	99.02143
+ 25	89.93082
+ 30	83.14695
+ 50	66.83812
+ 80	55.82301



.MODEL MINT NMOS(Vto=2.055682314185401 Kp=6.822779e+001 Nfs=620000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=8.517778682311e-13
+ N=1 M=0.59 VJ=0.99 Fc=0.5 Cjo=3.02553e-10 Tt=3.578e-08)

.ENDS

