*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2016
*  Date                 :26/08/2016
*  File name            :CRS01.lib
*  Part number          :CRS01
*  Parameter ver.       :Ver.1
*  Simulator            :PSpice
*  Model call name      :CRS01
*  TNOM                 :25 degree
*  Pin Assign           :1=Anode 2=Cathode
*
* This PSpice model is provided with OLB file. The symbol is
* simplified for PSpice simulation. It is different from original
* device. Please check the technical data sheet or Toshiba website.
*********************************************************************
.SUBCKT CRS01 1 2
D1 1 2 CRS01
D2 1 2 PDIODE1
.MODEL CRS01 D
+ IS = 1.7928e-05
+ N = 1.2036
+ RS = 0.087977
+ BV = 30
+ IBV = 1E-10
+ CJO = 1.8163e-10
+ M = 0.46127
+ VJ = 0.34557
+ TT = 1.7e-08
+ TNOM = 25
+ XTI = -13.7786
.MODEL PDIODE1 D
+ IS = 1.1899e-010
+ N = 0.66031
+ RS = 0.20363
+ BV = 400
+ IBV = 1E-10
+ CJO = 0
+ M = 0.5
+ VJ = 1
+ TT = 0
+ TNOM = 25
+ XTI = -50
.ENDS
