***********************************************************
*
* PMEG3030EP
*
* Nexperia
*
* 3 A low VF MEGA Schottky barrier rectifier
* IFmax = 3A (average)
* VRmax = 30V
* VFmax = 360mV   @ IF = 3A
* IRmax = 5mA     @ VR = 30V
* 
*
*
*
* Package pinning does not match Spice model pinning.
* Package: SOD128
*
* Package Pin 1: Cathode
* Package Pin 2: Anode
*
*
* Extraction date (week/year): #
* Simulator: SPICE2
*
***********************************************************
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
.SUBCKT PMEG3030EP 1 2
*
* The resistor R1 does not reflect
* a physical device. Instead it
* improves modeling in the reverse
* mode of operation.
*
R1 1 2 4.936E+7 
D1 1 2 PMEG3030EP 
*
.MODEL PMEG3030EP D 
+ IS = 8.318E-5 
+ N = 1.003 
+ BV = 33 
+ IBV = 0.013 
+ RS = 0.01302 
+ CJO = 9.05E-10 
+ VJ = 0.3154 
+ M = 0.4958
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2 
.ENDS
*