*DIODES_INC_SPICE_MODEL
*SIMULATOR=SIMETRIX
*ORIGIN=DZSL_DPG_SU
*DATE=29Jul2016
*VERSION=1

** PIN ORDER 1=Vcc 2=IN 3=Vee 4=SINK 5=NC 6=SOURCE
.SUBCKT ZXGD3009DY Vcc In Vee Sink NC SOURCE
Q1 10 2 60 N
Q2 30 2 40 P
L1 1 10 1p
L2 3 30 1p
L3 4 40 100p
L4 6 60 100p
.MODEL N NPN(IS=6E-14 BF=500 NF=.98 ISE=1E-14 NE=1.25 ISC=3.3E-14 BR=15 NR=1 NC=1.12 CJE=36.592p VJE=.75 MJE=.37 CJC=9.674p VJC=.5 MJC=.33 VAF=28 IKF=1 RC=.1 RE=.05 NK=.808)
.MODEL P PNP IS=20e-14 NF=1 ISE=5e-15 NE=1.3 BF=350
+ VAF=26 IKF=1 ISC=9e-15 NC=1.03 BR=15 NR=1 VAR=5.7 IKR=0.6 RE=0.067
+ RB=0.33 RC=0.012 CJE=36.99e-12 VJE=0.75 MJE=0.41 CJC=13.96e-12 VJC=0.5
+ MJC=0.33 TF=8e-10 TR=5.6e-9 QUASIMOD=1 RCO=0.66 GAMMA=1.3e-9 NK=.71
+ XTB=1.5 TRE1=0.004 TRB1=0.003 TRC1=0.004
.ENDS

*                (c)  2016 Diodes Inc
*
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Zetex Semiconductors Ltd, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL
